US04080449
A solution of 27 g. (0.13 moles) of methyl trans-2-cyano-4-methylcinnamate in 1 liter dry methanol is introduced into a 2-liter autoclave. About 5 g. of W-5 Raney nickel are added and the mixture is stirred for 17 hours under a hydrogen pressure (initial pressure 3.5 bars). The reaction mixture is filtered, the catalyst is washed with chloroform and the solvent is removed in vacuo. The red residue obtained is washed with about 20 ml. of 2-propanol and then taken up in hot 2-propanol, whereafter the solution is decolorized over active carbon. After recrystallization, 12.4 g. (53% of theory) of 8-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one are obtained. M.P. 174°-175° C.

reactant | methyl trans-2-cyano-4-methylcinnamate | 0.13 moles | C(#N)C1=C(/C=C/C(=O)OC)C=CC(=C1)C | C12H11NO2
solvent | methanol | 1 liter | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 8-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 53% | CC1=CC2=C(CCC(NC2)=O)C=C1 | C11H13NO
